US07300907B2
6-Amino-2-chloro-pyrimidine-4-carboxylic acid methyl ester (2.25 g, 12 mmol), 4-chloro-2-fluoro-3-methoxyphenylboronic acid (3.27 g, 16 mmol), and bis(triphenylphosphine)palladium(II) dichoride (842 mg, 1.2 mmol) were combined in 12 mL of dimethoxyethane and 12 mL of water. The reaction mixture was heated at 80° C. for 2 hours and the cooled reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed with water, dried, and concentrated under vacuum. The product was purified by column chromatography to yield 6-amino-2-(4-chloro-2-fluoro-3-methoxy-phenyl)pyrimidine-4-carboxylic acid methyl ester (2.0 g, 53.5% yield): mp 188-190° C.: 1H NMR (CDCl3): δ 7.66 (dd, 1H), 7.22 (dd, 1H), 7.14 (s, 1H), 5.25 (br s, 2H), 4.0 (s, 3H), 3.99 (s, 3H).

reactant | 6-Amino-2-chloro-pyrimidine-4-carboxylic acid methyl ester | 12 mmol, 2.25 g | COC(=O)C1=NC(=NC(=C1)N)Cl | C6H6ClN3O2
reactant | 4-chloro-2-fluoro-3-methoxyphenylboronic acid | 16 mmol, 3.27 g | ClC1=C(C(=C(C=C1)B(O)O)F)OC | C7H7BClFO3
solvent | dimethoxyethane | 12 mL | C(OC)COC | C4H10O2
solvent | water | 12 mL | O | H2O
product | 6-amino-2-(4-chloro-2-fluoro-3-methoxy-phenyl)pyrimidine-4-carboxylic acid methyl ester | 2.0 g, 53.5% yield | COC(=O)C1=NC(=NC(=C1)N)C1=C(C(=C(C=C1)Cl)OC)F | C13H11ClFN3O3
